US05641785
13.3. cis-(±)-3-Methyl-7-(4,4,4-trifluorobutoxy)-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one
To a solution of 0.70 g (3.2 mmol) of cis-(±)-7-hydroxy-3-methyl-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one in 15 ml of dimethylformamide are added 0.90 g (4.8 mmol) of 1-bromo-4,4,4-trifluorobutane and 0.90 g (6.4 mmol) of potassium carbonate. The mixture is heated at 90° C. for 4 hours and then diluted with ethyl acetate and washed with water. The organic phase is then dried over sodium sulphate and concentrated under reduced pressure, and the residue is chromatographed on a column of silica, with cyclohexane containing 20% of ethyl acetate. After trituration in diisopropyl ether, 0.80 g of product is obtained.

reactant | cis-(±)-7-hydroxy-3-methyl-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one | 3.2 mmol, 0.70 g | OC=1C=C2CC[C@@H]3N(C2=CC1)C(O[C@H]3C)=O | C12H13NO3
reactant | 1-bromo-4,4,4-trifluorobutane | 4.8 mmol, 0.90 g | BrCCCC(F)(F)F | C4H6BrF3
reactant | potassium carbonate | 6.4 mmol, 0.90 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cis-(±)-3-Methyl-7-(4,4,4-trifluorobutoxy)-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one | 0.80 g | C[C@@H]1OC(N2[C@H]1CCC1=CC(=CC=C21)OCCCC(F)(F)F)=O | C16H18F3NO3
